US07300949B2
5.7.5 4-Tert-Butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid(thiazol-2-ylmethyl)-amide
Anhydrous N,N-dimethylformamide (30 ml) was added to a mixture of 4-tert-butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid (1.1g, 2.9 mmol), C-thiazol-2-yl-methylamine hydrochloride (0.5 g, 3.3 mmol), 1-hydroxy-7-azabenzotriazole (HOAt, 0.4 g, 2.9 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDAC, 0.9 g, 4.4 mmol), and 4-methyl-morpholine (NMM, 0.8 ml, 7.2 mmol). The resulting solution was stirred at ambient temperature, under N2 blanket, for 15 hours, then slowly poured into 300 ml of rapidly stirred water. Precipitated solid was isolated by filtration, flash chromatographed (silica gel, 100% EtOAc), and then crystallized from ethyl acetate/hexanes to afford 0.9 g (68%) of the product as fine white crystalline powder, mp. 245-246° C. (decomp.). 1H NMR (d6-DMSO): δ 1.72 ppm, s, 9H, 2.40 ppm, s, 3H, 4.73 ppm, d, j=6.0 Hz, 2H, 7.35 ppm, d, j=7.8 Hz, 2H; 7.63 ppm, d, j=3.3 Hz, 1H, 7.74 ppm, d, j=3.3 Hz, 1H, 7.85 ppm, s, 1H, 8.03 ppm, d, j=8.1 Hz, 2H, 8.92 ppm, t, j=6.0 Hz, 1H, 12.49 ppm, s, 1H. MS: M+H=454.

reactant | 4-tert-butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid | 2.9 mmol, 1.1g | C(C)(C)(C)N1C=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)C)=O)C(=O)O | C18H19N3O3S
reactant | C-thiazol-2-yl-methylamine hydrochloride | 3.3 mmol, 0.5 g | Cl.S1C(=NC=C1)CN
reactant | 1-hydroxy-7-azabenzotriazole | 2.9 mmol, 0.4 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.4 mmol, 0.9 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-methyl-morpholine | 7.2 mmol, 0.8 ml | CN1CCOCC1 | C5H11NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Tert-Butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid(thiazol-2-ylmethyl)-amide | 0.9 g, 68% | S1C(=NC=C1)CNC(=O)C1=CN(C=2N=C(SC21)NC(C2=CC=C(C=C2)C)=O)C(C)(C)C | C22H23N5O2S2
